US07985753B2
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(1-methyl-3,4-dihydro-1H-[2,6]naphthyridin-2-yl)-methanone
In close analogy to the procedure described in Example 1, 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 1-methyl-1,2,3,4-tetrahydro-[2,6]naphthyridine to provide the title compound.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 1-methyl-1,2,3,4-tetrahydro-[2,6]naphthyridine | CC1NCCC2=CN=CC=C12 | C9H12N2
product | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(1-methyl-3,4-dihydro-1H-[2,6]naphthyridin-2-yl)-methanone | Yield: 54% | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=CC=NC=C1CC2)C | C16H14BrN5O
